US08877805B2
Step 1. Synthesis of Vinylsulfonic Acid Isopropyl Ester
2-Chloroethylsulfonyl chloride (2 g, 12.3 mmol), isopropanol (1 mL), and pyridine (2.7 mL) were dissolved in dichloromethane (20 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was washed successively with 1N hydrochloric acid and water, and the organic layer was dried over anhydrous magnesium sulfate. The drying agent was filtered, and the solvent was evaporated to give the title compound (1.06 g).

reactant | 2-Chloroethylsulfonyl chloride | 12.3 mmol, 2 g | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | isopropanol | 1 mL | C(C)(C)O | C3H8O
reactant | pyridine | 2.7 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Vinylsulfonic Acid Isopropyl Ester | 1.06 g | C(C)(C)OS(=O)(=O)C=C | C5H10O3S
